US07501518B2
A mixture of (2′R,6′S)-3,3″-dimethyl-1′,2′,3′,4′,5′,6′-hexahydro-[2,2′;6′,2′]terpyridine (0.320 g, 1.20 mmol), methanesulfonic acid 2-(2-benzyl-1H-pyrazol-4-yl)-ethyl ester (0.540 g, 1.60 mmol) and 2,2,6,6-tetramethylpiperidine (0.255 g, 1.80 mmol) in CH3CN (5 mL) was stirred and heated at reflux overnight. The solvent was then removed, water (20 mL) was added, and the mixture was extracted with CH2Cl2 (3×20 mL). The extracts were combined and dried over Na2SO4. After filtration the solvent was removed by evaporation under vacuum, and the residue was purified by flash chromatography on a silica gel column (500:15:1 CH2Cl2/CH3OH/NH4OH), affording (2′R,6′S)-1′-[2-(2-benzyl-1H-pyrazol-4-yl)-ethyl]-3,3″-dimethyl-1′,2′,3′,4′,5′,6′-hexahydro-[2,2′;6′,2″]terpyridine as a pale yellow oil (0.420 g, 93%).

reactant | methanesulfonic acid 2-(2-benzyl-1H-pyrazol-4-yl)-ethyl ester | 1.60 mmol, 0.540 g | C(C1=CC=CC=C1)N1NC=C(C1)CCOS(=O)(=O)C | C13H18N2O3S
reactant | 2,2,6,6-tetramethylpiperidine | 1.80 mmol, 0.255 g | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | CH3CN | 5 mL | CC#N | C2H3N
product | (2′R,6′S)-1′-[2-(2-benzyl-1H-pyrazol-4-yl)-ethyl]-3,3″-dimethyl-1′,2′,3′,4′,5′,6′-hexahydro-[2,2′;6′,2″]terpyridine | 0.420 g, 93% | C(C1=CC=CC=C1)N1NC=C(C1)CCN1[C@H](CCC[C@H]1C1=NC=CC=C1C)C1=NC=CC=C1C | C29H35N5
